US05223498
In a similar manner to that described in Example 272, N-(5-chloro-2-morpholinophenyl)cyanamide (2.3 g) in ethanol (10 ml) and a 33% ethanolic solution of dimethylamine (6 ml) were heated under reflux for 4 hours to give 1,1-dimethyl-2-(5-chloro-2-morpholinophenylguanidine (m.p. 135°-138° C.) which was recrystallised from hexane and then was converted into its monofumarate salt (m.p. 223°-225° C.) which was recrystallised from methanol.

reactant | N-(5-chloro-2-morpholinophenyl)cyanamide | 2.3 g | ClC=1C=CC(=C(C1)NC#N)N1CCOCC1 | C11H12ClN3O
reactant | dimethylamine | 6 ml | CNC | C2H7N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-chloro-2-morpholinophenylguanidine | ClC=1C=CC(=C(C1)NC(=N)N)N1CCOCC1 | C11H15ClN4O
